US06300330B1
4-(2-Methyl-4-pyridyl)benzoic acid (62 mg), 1-(6-bromonaphth-2-ylsulphonyl) piperazine (94 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (61 mg) were dissolved in DMF (2.5 ml) and the resultant solution stirred at ambient temperature for 16 hours. Excess DMF was removed in vacuo, water (10 ml) was added and the precipitate that formed was filtered, washed thoroughly with cold water and dried over P2O5. The solid thus obtained was purified by flash chromatography at 3 psi on silica (Merck ART 9385) eluting with 2.5% v/v methanol in dichloromethane. There was thus obtained the 1-(6-bromonaphth-2-ylsulphonyl)-4-[4-(2-methyl-4-pyridyl)benzoyl]piperazine (99 mg); mp 204-205° C.; 1H NMR (300 MHz, DMSO-d6) δ=2.48 (s,3H), 3.03 (s,4H), 3.57 (broad s, 4H), 7.46 (t,3H), 7.56 (s,1H), 7.77(d,2H), 7.83(d,2H), 8.17(q,2H), 8.42 (s,1H), 8.48 (d,2H), ppm; MS: m/z 550/552 (M+H)+ (1 Br pattern).

reactant | 4-(2-Methyl-4-pyridyl)benzoic acid | 62 mg | CC1=NC=CC(=C1)C1=CC=C(C(=O)O)C=C1 | C13H11NO2
reactant | 1-(6-bromonaphth-2-ylsulphonyl) piperazine | 94 mg | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1 | C14H15BrN2O2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 61 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 1-(6-bromonaphth-2-ylsulphonyl)-4-[4-(2-methyl-4-pyridyl)benzoyl]piperazine | 99 mg | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC(=NC=C1)C)=O | C27H24BrN3O3S
